US09446130B2
To a solution of ethyl 2-oxopiperidine-4-carboxylate (10.76 g, 62.85 mmol) in toluene (120 mL) was added the Lawesson's reagent (25.42 g, 62.85 mmol) under a nitrogen atmosphere. The mixture was heated to reflux for 2 h. Removed the solvent under reduced pressure and the residue was purified by silica gel column chromatography (DCM/EA=20/1) to afford ethyl 2-thioxopiperidine-4-carboxylate (5.8 g, yield 49.3%).

reactant | ethyl 2-oxopiperidine-4-carboxylate | 62.85 mmol, 10.76 g | O=C1NCCC(C1)C(=O)OCC | C8H13NO3
reactant | Lawesson's reagent | 62.85 mmol, 25.42 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-thioxopiperidine-4-carboxylate | 5.8 g, yield 49.3% | S=C1NCCC(C1)C(=O)OCC | C8H13NO2S
